US04980349
a) Preparation of 11-[2-(2-chlorobenzoyl)-4-chlorobenzenesulphonamido]undecanoyl chloride.
19 g of redistilled thionyl chloride are added to 10.3 g of 11-[2-(2-chlorobenzoyl)-4-chlorobenzenesulphonamido]undecanoic acid in 130 ml of anhydrous benzene. After refluxing for 2 hours, the reaction medium is evaporated to dryness under vacuum and it gives a colourless oil which is used without further purification.

reactant | thionyl chloride | 19 g | S(=O)(Cl)Cl | Cl2OS
reactant | 11-[2-(2-chlorobenzoyl)-4-chlorobenzenesulphonamido]undecanoic acid | 10.3 g | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)S(=O)(=O)NCCCCCCCCCCC(=O)O)C=CC=C1 | C24H29Cl2NO5S
solvent | benzene | 130 ml | C1=CC=CC=C1 | C6H6
product | 11-[2-(2-chlorobenzoyl)-4-chlorobenzenesulphonamido]undecanoyl chloride | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)S(=O)(=O)NCCCCCCCCCCC(=O)Cl)C=CC=C1 | C24H28Cl3NO4S
